US08633175B2
5-bromo-N-(4,4-dimethylcyclohexyl)-2,3-dihydro-1H-inden-1-amine
To a slurry of 5-bromo-1-indanone (0.449 g; 2.13 mmol) and 4,4-dimethylcyclohexanamine (2.24 mmol; Note 1) under N2 was added Ti(OiPr)4 (0.94 mL; 3.2 mmol) via syringe. The mixture was stirred 16 h at room temperature, a solution of NaBH3CN (0.134 g; 2.13 mmol) in EtOH (5 mL) was added and stirring continued an additional 4 h. Water was added and the whole was filtered through a pad of Celite (washed 2×EtOH, 2×THF). Combine filtrate and washings were concentrated in vacuo, the residue was taken up in CH2Cl2 and stirred under 1N NaOH for 1 h. Layers were separated, the aqueous layer was extracted with CH2Cl2 (×2), combined organics were washed (water, brine), dried over Na2SO4 and concentrated in vacuo. The residue was dissolved in MeOH/THF/HOAc (15/3/0.3 mL respectively), NaBH3CN (0.134 g; 2.13 mmol) was added and the mixture was stirred at room temperature overnight. After 17 h the mixture was concentrated in vacuo, partitioned between CH2Cl2/1N NaOH and the layers were separated. The aqueous layer was extracted with CH2Cl2 (×2), combined organics were washed (water, brine), dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash chromatography (EtOAc/hexanes; Note 2), affording the title compound as a pale yellow syrup. LC/MS (method A) tR 1.79 min; m/z 322, 324 (M+H, Br isotopes).

reactant | 5-bromo-1-indanone | 2.13 mmol, 0.449 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | 4,4-dimethylcyclohexanamine | 2.24 mmol | CC1(CCC(CC1)N)C | C8H17N
reactant | NaBH3CN | 2.13 mmol, 0.134 g | [BH3-]C#N.[Na+]
reactant | Water | O | H2O
reactant | NaBH3CN | 2.13 mmol, 0.134 g | [BH3-]C#N.[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | MeOH THF HOAc | CO.C1CCOC1.CC(=O)O
catalyst | Ti(OiPr)4 | 3.2 mmol, 0.94 mL | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | 5-bromo-N-(4,4-dimethylcyclohexyl)-2,3-dihydro-1H-inden-1-amine | BrC=1C=C2CCC(C2=CC1)NC1CCC(CC1)(C)C | C17H24BrN
